US09126981B2
Synthesis of 3-(3-benzylureido)-2,2-dimethylpropanoic Acid (Compound VI-3)
According to the procedure described in the synthesis method of Compound VI-1, ethyl 3-(3-benzylureido)-2,2-dimethylpropanoate (Compound V-4) (840 mg, 3.0 mmol) was reacted with lithium hydroxide monohydrate (151 mg, 3.6 mmol) to obtain the title compound (381 mg, 50.7%).

reactant | ethyl 3-(3-benzylureido)-2,2-dimethylpropanoate | 3.0 mmol, 840 mg | C(C1=CC=CC=C1)NC(NCC(C(=O)OCC)(C)C)=O | C15H22N2O3
reactant | lithium hydroxide monohydrate | 3.6 mmol, 151 mg | O.[OH-].[Li+]
product | 3-(3-benzylureido)-2,2-dimethylpropanoic Acid | 381 mg, 50.7% | C(C1=CC=CC=C1)NC(NCC(C(=O)O)(C)C)=O | C13H18N2O3
